US04219657
A solution of 10.5 g. of oxalyl chloride in 100 ml. of benzene was added, with stirring, to a suspension of 16.53 g. of 7-chlorodibenzothiophene-3-carboxylic acid potassium salt in 100 ml. of benzene. The mixture was stirred and refluxed for two hours and then filtered. On distillation to dryness on the steam bath in vacuo 9 g. of crude 3-chlorocarbonyl-7-chlorodibenzothiophene was obtained as a residue.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 7-chlorodibenzothiophene-3-carboxylic acid potassium salt | [K+].ClC1=CC2=C(C3=C(S2)C=C(C=C3)C(=O)[O-])C=C1
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-chlorocarbonyl-7-chlorodibenzothiophene | ClC(=O)C=1C=CC2=C(SC3=C2C=CC(=C3)Cl)C1 | C13H6Cl2OS
